Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Pepto-Bismol
 
Attending: ___
 
Chief Complaint:
Pt was sent to ___ by ___ counselor after voicing suicidal 
thoughts
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Ms. ___ is a ___ year old woman, freshman ___
& ___ major at ___, with a history
of anxiety who was sent to ___ from by NEU counselors after 
she
described suicidal ideation with a variety of plans. She has
thought about shooting herself with a gun, cutting her wrists or
her throat with a knife, and overdosing on pills. She states 
that
she has not "come close" to carrying out these plans. However,
she has thought about what she would write in a suicide note. 
She
has also considered asking her father about how she can get a 
gun
(she does not have access to one at present); she thinks she can
get away with that because he "would never suspect" it were for
suicide. She has also held a knife in her hands on several
occasions (i.e. while emptying the dishwasher) and thought about
what it'd be like to commit suicide right there. Regarding 
pills,
she has not thought about what pills she'd take. She does not
have a psychiatrist or therapist in the ___ area (has not 
seen
one since ___ grade, which at the time was for social
anxiety). She does not take any medications. She has not talked
to anyone about her thoughts and her family, who she identifies
as her primary support, are in ___ (she says tearfully
that she sometimes feels "alone" here). 
     The patient says that her thoughts about suicide started in
___. In sophomore year of high school (___),
she wrote a paper about the afterlife and the idea of there 
being
"nothing" after one dies; the idea scares her, and she often
ruminates on that though it causes her anxiety. Neither she nor
her family is religious. In senior year of HS (___), she
began to think about what it would be like to commit suicide. In
___, a classmate of hers committed suicide; she was not
his close friend and does not know how he completed the attempt.
     She endorses anxiety about topics other than death as well.
She often worries that she is not performing well in her classes
and is therefore "wasting [her] time." She describes herself as 
a
worrier - she is quite worried about finals, which start in 19
days. In addition to anxiety, she endorses symptoms of
depression, including depressed mood (feels very depressed 20% 
of
the time), anhedonia (takes weekly drum lessons but no longer
enjoys it), decreased concentration and motivation (skipping 
more
classes than usual), hypersomnia on weekends (15 hrs/day on
weekends, 9 hrs/day during the week), appetite disturbance
(sometimes goes ___ days without eating, but "thinks" she has 
not
lost or gained weight), and thoughts of inadequacy/failure and
suicide as noted above. Over the past ___ weeks, she has started
to become tearful and cry somewhat at various points throughout
the day.
     She denies symptoms of mania including periods of decreased
need for sleep, abnormally increased goal-directed activity,
pressured speech, grandiosity, elevated mood, etc. She denies
symptoms of psychosis, including paranoia and AH/VH, and 
provides
no evidence for delusion beliefs. She denies
obsessions/compulsions.

COLLATERAL FROM MOTHER (home # ___, given to me by the
patient, who gave me permission to discuss her history and
current status, and our plan with them):
     The patient had anxiety issues in early high school since
then has not talked about any sort of depression or suicidal
ideation. She texts with her family almost daily and Skypes with
them once per week. The family was in ___ visiting her last
weekend; per mother, the patient "seemed okay" at the time. The
patient's sister, however, has recently been having issues with
depression and anxiety. She (the sister) has been cutting 
herself
and was recently placed on Prozac, to good effect. There is no
family history of mania (including in the patient).
     The mother believes that the patient has "taken on too 
much"
during her freshman year in college. The patient is involved in
multiple business clubs, as well as "Peace through Play," which
she serves on the executive board of in several different roles.
The patient has been in a couple of relationships that she feels
she shouldn't have been in, so she terminated them.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: none
Current treaters and treatment: none
Medication and ECT trials: none
Self-injury: denies
Harm to others: denies
Access to weapons: denies access to firearms

PAST MEDICAL HISTORY:
- denies medical ailments

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Sister (younger) with anxiety and depression, SIB of cutting
wrists, treatment with Prozac
- Brother (younger) with autism
- Grandmother with anxiety and depression
- Mother has seen a therapist, reason unknown but suspects
anxiety

 
Physical Exam:
EXAM: 
BP: 102/70, HR: 85, T: 98.4, RR: 18, SpO2: 97%  

Neurological:  
 *station and gait: no ataxia
 *tone and strength: good/symmetric bulk and tone, strength 5s 
in
UE and ___ bilaterally
 *cranial nerves: CNs II-XII intact and symmetric bilaterally
 *abnormal movements: no tremor or other adventitious movements

Cognition: 
 *Wakefulness/alertness: awake and alert throughout interview
 *Attention: MOYB and serial 7s without difficulty
 *Orientation: A&O to person, place, time, and date/day
 *Executive function: follows 2 step commands, no gross deficits
 *Memory: ___ registration, ___ delayed recall (improves to ___
with category)
 *Fund of knowledge: knows current president and presidential
candidates ___ can name several
___ plays
 *Calculations: "26 nickels" in $1.30 
 *Abstraction: apples/oranges "both fruit", watches/rules "both
measure", 
 *Speech: soft-spoken with a sad prosody
 *Language: fluent ___ with no paraphasic errors
 
Mental Status:
 *Appearance: Young, well-groomed/neat Caucasian woman who sits
up in bed, hunched over her crossed legs. She looks sad and is
often tearful.
 *Behavior: cooperative with interview, no PMR or PMA, makes 
good
eye contact but often looks down
 *Mood: "okay - not happy" and "sometimes" very depressed
 *Affect: dysphoric, constricted, and often tearful
 *Thought process: linear and question-directed with no LOA
 *Thought Content: endorses passive SI, denies HI, AH, VH, no
evidence for delusions
 *Judgment and Insight: fair 

 
Pertinent Results:
___ 02:20PM   GLUCOSE-93 UREA N-11 CREAT-0.8 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 02:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:20PM URINE  HOURS-RANDOM
___ 02:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:20PM   WBC-9.2 RBC-4.37 HGB-12.8 HCT-37.7 MCV-86 
MCH-29.3 MCHC-34.0 RDW-12.2 RDWSD-38.1
___ 02:20PM   NEUTS-74.1* LYMPHS-16.7* MONOS-7.5 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-6.80* AbsLymp-1.53 AbsMono-0.69 
AbsEos-0.10 AbsBaso-0.02
___ 02:20PM   PLT COUNT-225
___ 02:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG
___ 02:20PM URINE  RBC-1 WBC-8* BACTERIA-FEW YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 02:20PM URINE  MUCOUS-RARE
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient declined to sign a conditional 
voluntary agreement (Section 10 & 11) so was admitted on a 
Section 12b.  She then signed a CV and remained on that level 
throughout her admission.  She also signed a 3 day notice 
expiring ___.  They were also placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.  There were no safety 
issues or events during her admission.  

2. PSYCHIATRIC:
#) MDD
On admission the patient endorsed depressed mood, increased 
sleep, decreased appetite, poor concentration, anhedonia, 
tearfulness and thoughts about how she would commit suicide.  
Patient is from ___ and feels "lonely" in ___ and stressed and 
anxious by her academics.  Prior to presenting to the ED, she 
pricked her face with a pin to feel better, but denies any self 
harm prior to that.  She had been thinking about overdosing, 
cutting herself with a knife and ways to get a gun to shoot 
herself.  Patient recently switched majors from business to 
computer science/___.  
Patient was started on Luvox and it was uptitrated to 150 mg QAM 
upon discharge.  Patient reported no side effects and felt the 
medication was helpful.  She was also able to drop two of the 
classes that were causing her the most stress.  She felt better 
after doing so.  She denied thoughts of self harm for several 
days and felt safe to be discharged.  She endorsed that she 
would call her mother and the school mental health services if 
these thoughts returned.  She would also put the phone number 
for the school's mental health services in her phone to make 
this easier.  She will follow up with a therapist at her school 
until the end of the semester and then follow up with a provider 
that her family feels comfortable with in CT where she is from. 
    
3. SUBSTANCE USE DISORDERS:
#) Denies 

4. MEDICAL
#)None 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient's family, in particular her mother were involved in her 
care with the patient's permission.  SW spoke to family over the 
phone.  

#) INTERVENTIONS
- Medications: Luvox 150 mg QAM, Trazodone 50 mg QHS
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___ 
___  

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal thoughts 
and thoughts of self harm.  Their static factors noted at that 
time include Caucasian race, age and marital status.   The 
modifiable risk factors included suicidal ideation, limited 
coping skills, no established outpatient treatment and academic 
stressors.  She was started on Luvox and set up with her 
school's mental health services.  She was also able to work with 
her school to reduce her academic stress.  Finally, the patient 
is being discharged with many protective risk factors including 
help-seeking nature, future-oriented viewpoint and sense of 
responsibility to family.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

PROGNOSIS:
The patient's prognosis is good, due to the fact that she is 
medication adherent, connected to outpatient care, denies any 
suicidal thought, intent, or plan, and is future-oriented with 
plan to return to school. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Fluvoxamine Maleate 150 mg PO QAM 
2. TraZODone 50 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___